* Z:\home\mariano\mariano\Docencia\TC2\scripts\analog filters\python\pytc2\docs\ACKMOSS bicuad.asc
R1 va vi {R/(d+eps)}
R2 vo va {Q*R}
R3 vd va {R}
R4 vb vo {R}
R5 vc N001 {R}
R6 vd vc {R}
C1 N001 vb {C0}
C2 vo va {C0}
XU1 va 0 vo opamp Aol=100K GBW=10Meg
XU2 0 vb vd opamp Aol=100K GBW=10Meg
XU3 vc 0 N001 opamp Aol=100K GBW=10Meg
V2 vi 0 AC 1 1
C3 va vi {C0*a}
R7 vb vi {R/(c+eps)}
R8 vc vi {R/(b+eps)}
.inc opamp.sub
.ac dec 1000 {f0/100} {f0*100}
#.param Qz=5 wz=0.5 * w0
* Versión normalizada
.param znorm=1 wnorm=1 f0=w0/2/pi
* Full bicuad config
.param R=znorm/w0/C0 C0 = 1
* Configuración de la simulación
#.param c= k*wz*wz/w0/w0 a = (k+c)/2 b = k * wz / 2 / w0 *(Q/Qz + wz/w0)
* Low/High pass notch
.param a = k b = 0 c= k*wz*wz/w0/w0 d = 0
.param  wz=10 * wnorm
* Highpass config
#.param a = k b= 0 c = 0 d = 0
.param k=10 Q=sqrt(2)/2 w0=1 * wnorm
* Allpass config
#.param a = 1 b= 1/Q c = 1 d = 0
* Lowpass config
#.param a = 0 b= 0 c = k d = 0
* Bandpass config
#.param a = 0 c = 0
* Parámetros generales
.param eps = 1e-10
* eps es un nro muy pequeño para\nevitar divisiones por cero, etc
* SOS parametrization
* Notch config
#.param a = 1 b= 0 c = 1 d = 0
* inverting
* Non-inverting
#.param b = 0 d = k/Q
#.param d = 0 b = k/Q
.backanno
.end
